Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, Dark Stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ history of gastric ulcers secondary to NSAID use 
confirmed on EGD 3 months ago presenting with abdominal pain and 
dark stools.  He states he was in his normal state of 
healthchill earlier today where he felt some weakness and one 
episode of dark tarry stools  
He was evaluated by gastroenterology ___ for ongoing upper 
abdominal pain and endoscopy showed: 3 perpyloric gastric ulcers 
but no active bleeding. He was treated with omeprazole 20mg with 
generally good relief of abdominal pain. His hemogram in ___ 
showed stable hct around 30 range. However, past 24hrs noticed 
darker colored stools and today has increased upper abdominal 
pain with some nausea without vomiting. He also ran out of 
omeprazole 20 mg,week ago but restarted 2 days ago . He drinks 
less than one drink of alcohol a day and does not smoke.  
He denies any chest pain or shortness of breath no hematemesis 
no bright red blood per rectum he was seen at the urgent care or 
further evaluation because of guaiac-positive stools. Patient 
reports some use of iron supplementation. He denies any NSAID 
use.  

In the ED, initial vitals were: 98.1 92 154/88 18 100% RA  
 
 - Labs were significant for H/H of ___, BUN 12, MCV 78, 
platelets of 278.  
 - The patient was given 2L NS, 80mg IV pantoprazole, and 4mg IV 
zofran  
 Vitals prior to transfer were:98.4 79 133/70 16 100% RA  
 
Upon arrival to the floor, patient reports some abdominal pain 
but some improvement.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 
Past Medical History:
GI ulcers and Eosinophilic Esophagitis 3 months ago on EGD  

 
Social History:
___
Family History:
No family hx of GI ulcers, cancers
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
Vitals: T99 BP 144/90 HR 87 RR 18 Sats 99 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, diffusely tender to deep palpation, 
non-distended, bowel sounds present, no organomegaly, no rebound 
or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM:
========================
Vitals: Tc 98.7  BP 117-135/50-67  HR 50  RR 18 Sats 100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non tender over epigastrium, non-distended, bowel 
sounds present
Ext: Warm, well perfused, 2+ pulses
Neuro: ___ strength upper/lower extremities, grossly normal 
sensation

 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:08PM   GLUCOSE-90 UREA N-12 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-99 TOTAL CO2-25 ANION GAP-18
___ 06:08PM   WBC-9.4 RBC-4.30* HGB-10.5* HCT-33.4* MCV-78* 
MCH-24.4* MCHC-31.4* RDW-17.1* RDWSD-46.8*
___ 06:08PM   NEUTS-69.5 ___ MONOS-6.8 EOS-2.3 
BASOS-1.4* IM ___ AbsNeut-6.55* AbsLymp-1.86 AbsMono-0.64 
AbsEos-0.22 AbsBaso-0.13*
___ 06:08PM   PLT COUNT-278

Atrius CBC records:
___ 10.1/31.9   
___: 9.6/30.2   
___ 10.7/33.1  
___: 10.7/33.8 

Hgb Trend at ___ 10.5->9.2->9.4-> 9.7 

DISCHARGE LABS:
===============
___ 07:35AM BLOOD WBC-5.3 RBC-4.03* Hgb-9.7* Hct-32.1* 
MCV-80* MCH-24.1* MCHC-30.2* RDW-17.3* RDWSD-48.9* Plt ___
___ 07:35AM BLOOD Glucose-86 UreaN-11 Creat-0.9 Na-141 
K-4.2 Cl-103 HCO3-29 AnGap-13
___ 07:35AM BLOOD ALT-20 AST-19 AlkPhos-42
___ 07:35AM BLOOD Calcium-9.6 Phos-3.8 Mg-1.9

MICRO:
======
HELICOBACTER PYLORI ANTIBODY TEST (Pending)
 
Brief Hospital Course:
This is a ___ w/ hx of NSAID induced gastric ulcers and 
eosinophilic esophagitis found 3months ago on EGD, p/w some 
weakness and dark tarry stools.  

#Upper GI bleed: Patient has history of ulcers from NSAID use 
confirmed on EGD previously, possible recent trigger being 
alcohol use vs inadequate PPI dosing. He was now having 
abdominal pain and dark stools, since in ED, no recurrent 
bleeding, HD stable and with guaiac positive brown stools. He 
was placed on IV Pantoprazole BID, and monitored for bleeding 
and hemodynamic instability. He remained minimally symptomatic 
with epigastric pain, with stable blood pressures and heart 
rate. Patient was initially NPO, with diet advanced with 
stability. His serum was sent for H.pylori testing, which was 
pending on discharge. He was discharged to home on omeprazole 
40mg BID and with follow-up in place with Dr. ___ 
endoscopy on ___.

#Eosinophilic Esophagitis: confirmed on recent biopsy, likely 
contributing to persisting GERD symptoms and abdominal pain. 
Patient was discharged on PPI BID. Outpatient providers can 
track if PPI responsive, can consider glucocorticoids on 
outpatient followup. He may also warrant outpatient allergy 
evaluation.

TRANSITIONAL ISSUES:
===================
-Discharge Hgb/Hct: 9.___
-Serum H Pylori pending at time of discharge, results to be 
followed-up by Dr. ___ discharged on Omeprazole 40 mg BID (was on IV PPI in 
house)
-Patient may benefit from allergy followup given noted food 
allergies and recent finding of eosinophilic esophagitis
-Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
-Upper GI bleeding
-NSAID induced gastric ulcers
-Eosinophilic Esophagitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   You were admitted to ___ on ___ with concerns for GI 
bleeding given your dark stools and weakness. Your blood counts 
were slightly lower from before, but remained stable, and your 
blood pressure and heart rates also were stable. Please take 
your omeprazole as directed, and follow up with your scheduled 
endoscopy on ___.

We wish you the best
Your ___ Care Team
 
Followup Instructions:
___